US06255417B1
19.0 g (114 mmol) of fluorene was introduced into a flask under a high purity argon atmosphere and dissolved in 200 ml of THF. 50.2 ml of 2.5 N n-butyl lithium (n-BuLi) in hexane was slowly added thereto at −78° C. The mixture was slowly warmed to room temperature and then stirred for another 2 hours. 11.7 of spiro (2-octylcyclopropane)-1,1′-cyclopentadiene diluted in 200 ml of THF was added dropwise thereto at 0° C., and then stirred for 24 hours at room temperature. 200 ml of water and 500 ml of diethyl ether were added to the reaction mixture, agitated and the organic layer was separated and dried on anhydrous magnesium sulfate. After removing magnesium sulfate by filtration, the solvent was evaporated under a reduced pressure and the residue was subjected to silica gel column chromatography (eluent: hexane) to obtain 8.1 g of pure 1-fluorenyl-2-cyclopentadienyldecane (Yield: 38%).

reactant | fluorene | 114 mmol, 19.0 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium | 2.5 N, 50.2 ml | C(CCC)[Li]
reactant | water | 200 ml | O | H2O
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-fluorenyl-2-cyclopentadienyldecane | 8.1 g, Yield: 38% | C1(=CC=CC=2C3=CC=CC=C3CC12)CC(CCCCCCCC)C1C=CC=C1 | C28H34
